US09108939B2
C: 4-(3-(Cyclopropylmethyl)ureido)-N-ethyl-N-(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)benzamide
To a mixture of 4-(3-(cyclopropylmethyl)ureido)benzoic acid (0.781 mmol, 183 mg), 2-(4-((4-(ethylamino)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.781 mmol, 300 mg) and triethylamine (1.873 mmol, 0.261 mL, 190 mg) in dichloromethane (50 mL) was added N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (0.937 mmol, 180 mg). The reaction was stirred for 24 hours. Chromatography on silica eluting with dichloromethane to dichloromethane/methanol (10%) gave the title compound (250 mg).

reactant | 4-(3-(cyclopropylmethyl)ureido)benzoic acid | 0.781 mmol, 183 mg | C1(CC1)CNC(NC1=CC=C(C(=O)O)C=C1)=O | C12H14N2O3
reactant | 2-(4-((4-(ethylamino)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.781 mmol, 300 mg | C(C)NC1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C17H22F6N2O
reactant | triethylamine | 1.873 mmol, 0.261 mL, 190 mg | C(C)N(CC)CC | C6H15N
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 0.937 mmol, 180 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane methanol | ClCCl.CO
product | 4-(3-(Cyclopropylmethyl)ureido)-N-ethyl-N-(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)benzamide | 250 mg | C1(CC1)CNC(NC1=CC=C(C(=O)N(C2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)CC)C=C1)=O | C29H34F6N4O3
